US08440658B2
To a solution of (S)-6-(2-azidoethyl)-3-((S)-3,3-dimethylbutan-2-yl)-6-(4-fluorophenyl)-1,3-oxazinan-2-one (219 mg, 0.63 mmol) in THF (5 mL) and H2O (0.25 mL) was added PPh3 (198 mg, 0.76 mmol), and the mixture was refluxed for 2 h. The solution was concentrated, and the residue was purified by preparative TLC to afford (R)-6-(2-aminoethyl)-3-((S)-3,3-dimethylbutan-2-yl)-6-(4-fluorophenyl)-1,3-oxazinan-2-one (144 mg, 71%). 1H NMR (CDCl3): 0.61-0.69 (s, 9H), 1.02-1.08 (d, 3H), 1.98-2.14 (m, 3H), 2.23-2.31 (m, 1H), 2.48-2.56 (m, 1H), 2.58-2.67 (m, 1H), 2.77-2.86 (m, 1H), 3.07-3.12 (m, 1H), 4.33-4.40 (m, 1H), 6.98-7.04 (m, 2H), 7.21-7.24 (m, 2H).

reactant | (S)-6-(2-azidoethyl)-3-((S)-3,3-dimethylbutan-2-yl)-6-(4-fluorophenyl)-1,3-oxazinan-2-one | 0.63 mmol, 219 mg | N(=[N+]=[N-])CC[C@@]1(CCN(C(O1)=O)[C@@H](C)C(C)(C)C)C1=CC=C(C=C1)F | C18H25FN4O2
reactant | PPh3 | 0.76 mmol, 198 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | H2O | 0.25 mL | O | H2O
product | (R)-6-(2-aminoethyl)-3-((S)-3,3-dimethylbutan-2-yl)-6-(4-fluorophenyl)-1,3-oxazinan-2-one | 144 mg, 71% | NCC[C@@]1(CCN(C(O1)=O)[C@@H](C)C(C)(C)C)C1=CC=C(C=C1)F | C18H27FN2O2
